US07842694B2
N-(1,5-Dimethyl-1H-pyrazol-3-yl)-3-{[2-fluoro-1-(fluoromethyl)ethyl]oxy}-5-hydroxybenzamide
A solution of N-(1,5-dimethyl-1H-pyrazol-3-yl)-3-{[2-fluoro-1-(fluoromethyl)ethyl]oxy}-5-[(phenylmethyl)oxy]benzamide (1.89 mmol) in ethanol (30 mL) was treated with 10% palladium on carbon (78 mg, wetted with 1 mL ethanol). The flask was evacuated and filled with hydrogen and this procedure repeated a further 4 times. The mixture was left to stir at RT overnight under an atmosphere of hydrogen then the mixture filtered through Celite® and the cake washed with ethanol (50 mL) and ethyl acetate (50 mL). The combined organics were evaporated in vacuo to give the desired compound as a white foam (613 mg).

reactant | N-(1,5-dimethyl-1H-pyrazol-3-yl)-3-{[2-fluoro-1-(fluoromethyl)ethyl]oxy}-5-[(phenylmethyl)oxy]benzamide | 1.89 mmol | CN1N=C(C=C1C)NC(C1=CC(=CC(=C1)OCC1=CC=CC=C1)OC(CF)CF)=O | C22H23F2N3O3
solvent | ethanol | 30 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 1 mL, 78 mg | [Pd] | Pd
product | N-(1,5-Dimethyl-1H-pyrazol-3-yl)-3-{[2-fluoro-1-(fluoromethyl)ethyl]oxy}-5-hydroxybenzamide | 613 mg | CN1N=C(C=C1C)NC(C1=CC(=CC(=C1)O)OC(CF)CF)=O | C15H17F2N3O3
